US04323691
Ethyl-2,3-dichloro-4-(4'-methoxybenzoyl)phenoxy-α-methylacetate
A solution of 9.96 (0.055 mole) of ethyl 2-bromopropionate in 12 ml. of acetone was added over a period of 2 hours to a stirred, refluxing mixture of 14.85 g. (0.05 mole) of 2,3-dichloro-4-(4'-methoxybenzoyl)phenol and 7.60 g. (0.055 mole) of powdered anhydrous potassium carbonate in 200 ml. of acetone. After the addition, the mixture was refluxed for 20 hours and the hot mixture was filtered. The filtrate was evaporated in vacuo and the residue was taken up in 250 ml. of chloroform. The chloroform solution was washed with 10% aqueous potassium carbonate, water, dried over anhydrous sodium carbonate and evaporated in vacuo to give the product.

reactant | ethyl 2-bromopropionate | BrC(C(=O)OCC)C | C5H9BrO2
reactant | 2,3-dichloro-4-(4'-methoxybenzoyl)phenol | 0.05 mole | ClC1=C(C=CC(=C1Cl)C(C1=CC=C(C=C1)OC)=O)O | C14H10Cl2O3
reactant | potassium carbonate | 0.055 mole | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | CC(=O)C | C3H6O
product | Ethyl-2,3-dichloro-4-(4'-methoxybenzoyl)phenoxy-α-methylacetate | C(C)OC(C(C)OC1=C(C(=C(C=C1)C(C1=CC=C(C=C1)OC)=O)Cl)Cl)=O | C19H18Cl2O5
